US04002626
A. 1-(2-naphthylmethyl)2-(1H)-pyrimidone
A 14.6 g (0.11 mole) portion of 2-hydroxypyrimidine hydrochloride in 700 ml of methanol was treated with 23.3 g (0.22 mole) of Na2CO3, 7.5 g (0.05 mole) of NaI and 20.0 g (0.11 mole) of 2-(chloromethyl) naphthalene. The reaction mixture was refluxed for 18 hrs and concentrated to dryness under reduced pressure. The solid was taken up in 200 ml of H2O and extracted with 300 ml of CHCl3. The chloroform extract was washed with 100 ml of H2O, dried over MgSO4 for 2 hrs and filtered. The filtrate was concentrated under reduced pressure to give 24 g (92%) of a cream solid, m.p. 136°-145°.

reactant | 2-hydroxypyrimidine hydrochloride | Cl.OC1=NC=CC=N1
reactant | Na2CO3 | 0.22 mole, 23.3 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaI | 0.05 mole, 7.5 g | [Na+].[I-]
reactant | 2-(chloromethyl) naphthalene | 0.11 mole, 20.0 g | ClCC1=CC2=CC=CC=C2C=C1 | C11H9Cl
solvent | methanol | 700 ml | CO | CH4O
product | 1-(2-naphthylmethyl)2-(1H)-pyrimidone | 24 g, 92% | C1=C(C=CC2=CC=CC=C12)CN1C(N=CC=C1)=O | C15H12N2O
